US09024027B2
Step 3: Preparation of methyl 2-(5-(methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate (165)
To a solution of methyl 2-(5-amino-1,3-dioxoisoindolin-2-yl)acetate (380 mg, 1.622 mmol) in pyridine (10 ml), methanesulfonyl chloride (190 μl, 2.434 mmol) was added, and the mixture was reacted overnight at room temperature. The solvent was evaporated and the resulting crude was partitioned between 1N HCl (10 ml) and EtOAc (10 ml); aqueous phase was extracted with EtOAc (3×20 ml) and the organic phase was dried over sodium sulfate. The solvent was removed affording title compound as a brown solid (550 mg, MS/ESI+ 312.9 [MH]+). It was used in the next step without any additional purification.

reactant | methyl 2-(5-amino-1,3-dioxoisoindolin-2-yl)acetate | 1.622 mmol, 380 mg | NC=1C=C2C(N(C(C2=CC1)=O)CC(=O)OC)=O | C11H10N2O4
reactant | methanesulfonyl chloride | 2.434 mmol, 190 μl | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | methyl 2-(5-(methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate | 550 mg | CS(=O)(=O)NC=1C=C2C(N(C(C2=CC1)=O)CC(=O)OC)=O | C12H12N2O6S
